US08877782B2
a) 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid methyl ester
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (1.5 g, 8.0 mmol) in THF (79 mL) was added 2-hydroxy-isonicotinic acid methyl ester (1.8 g, 12.0 mmol) and triphenylphosphine (2.8 g, 11 mmol) at room temperature under an argon atmosphere. Then diethyl azodicarboxylate (1.64 mL, 11 mmol) was added and the reaction mixture was stirred overnight at room temperature. Then 2-hydroxy-isonicotinic acid methyl ester (0.2 g, 0.17 mmol) was added and the resulting mixture stirred at room temperature for 1 h and then heated at 60° C. for 1 h. After cooling to room temperature, concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (0.99 g, 38%) as a light yellow solid. MS: m/e=325.1 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 8.0 mmol, 1.5 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 2-hydroxy-isonicotinic acid methyl ester | 12.0 mmol, 1.8 g | COC(C1=CC(=NC=C1)O)=O | C7H7NO3
reactant | triphenylphosphine | 11 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 11 mmol, 1.64 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxy-isonicotinic acid methyl ester | 0.17 mmol, 0.2 g | COC(C1=CC(=NC=C1)O)=O | C7H7NO3
solvent | THF | 79 mL | C1CCOC1 | C4H8O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid methyl ester | 0.99 g, 38% | COC(C1=CC(=NC=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
